US04075241
Ethyl α-(3,4-dimethoxyphenyl)crotonate
To a diethyl ether solution of ethylidenetriphenylphosphorane prepared in the usual way from 800 g. of ethyltriphenylphosphonium bromide, 400 g. of ethyl 3,4-dimethoxyphenylglyoxylate in 600 ml. of ether are added dropwise. After refluxing for 4-5 hours, the solvent is evaporated and substituted with tetrahydrofuran. The mixture is then heated for 36 hours and then evaporated to dryness and the residue is extracted with diethyl ether in a Soxhlet apparatus giving 150 g. of the title compound. Pursuant to this procedure, the following other α-arylcrotonate starting materials are prepared:

reactant | ethylidenetriphenylphosphorane | C(C)=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H19P
reactant | ethyl 3,4-dimethoxyphenylglyoxylate | COC=1C=C(C=CC1OC)C(C(=O)OCC)=O | C12H14O5
catalyst | ethyltriphenylphosphonium bromide | [Br-].C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | ether | CCOCC | C4H10O
solvent | diethyl ether | C(C)OCC | C4H10O
product | Ethyl α-(3,4-dimethoxyphenyl)crotonate | COC=1C=C(C=CC1OC)/C(/C(=O)OCC)=C\C | C14H18O4
